US07476399B2
N-(3,4-methylenedioxyphenyl)isoindoline-2-carboxamide
To a solution of 3,4-(methylenedioxy)aniline (150 mg, 1.09 mmol) in dry DCM (4 mL) was added dropwise phenyl chloroformate (0.138 ml, 1.09 mmol) and triethylamine (0.153 ml, 1.09 mmol). After the reaction mixture was stirred at r.t for 8 hr., isoindoline (0.123 ml, 1.09 mmol) and triethylamine (0.153 ml, 1.09 mmo) were added, and the reaction mixture was stirred overnight. The solvent was then removed under reduced pressure, and the residue was purified by chromatographed on silica gel (EtOAC/Hexane: 1:3) to give the title compound (185 mg, 60%) as a white solid: m.p:165-166° C. 1H NMR (CDCl3, 500 MHz): 4.82 (s, 4H); 5.93 (s, 2H); 6.20 (s, 1H); 6.73 (s, 2H); 7.17 (s, 1H); 7.30 (m, 4H). MS (MH+, 283).

reactant | 3,4-(methylenedioxy)aniline | 1.09 mmol, 150 mg | C1OC=2C=C(N)C=CC2O1 | C7H7NO2
reactant | phenyl chloroformate | 1.09 mmol, 0.138 ml | ClC(=O)OC1=CC=CC=C1 | C7H5ClO2
reactant | triethylamine | 1.09 mmol, 0.153 ml | C(C)N(CC)CC | C6H15N
reactant | isoindoline | 1.09 mmol, 0.123 ml | C1NCC2=CC=CC=C12 | C8H9N
reactant | triethylamine | 0.153 ml | C(C)N(CC)CC | C6H15N
solvent | DCM | 4 mL | C(Cl)Cl | CH2Cl2
product | N-(3,4-methylenedioxyphenyl)isoindoline-2-carboxamide | 185 mg, 60% | C1OC=2C=C(C=CC2O1)NC(=O)N1CC2=CC=CC=C2C1 | C16H14N2O3
